US04012513
A solution of ethyl 1-(7-chloroquinazolin-4-yl)-5-hydroxy-2-methylindol-3-ylacetate (1.0g.) in dry dimethyl-formamide (10ml.); dried by distillation from calcium hydride, and stored over sodium alumino-silicate) was added to sodium hydride (0.068g.), and the mixture was stirred under a slight vacuum (ca 150mm. Hg) at room temperature for 15 minutes. n-Propyl iodide (0.9g.) was added to the resulting clear solution, and the mixture stirred at room temperature overnight. The solution was added to water (300ml.) and extracted with ethyl acetate (3 × 40ml.). The combined extracts were washed with a saturated solution of sodium chloride (30ml.), dried (MgSO4), and then evaporated in vacuo. The yellow oil thus obtained was treated with tetrachloroethylene (100ml.) and the solution evaporated in vacuo. This process was then replaced with ethanol (50ml.) to give ethyl 1-(7chloroquinazolin-4-yl)-2-methyl-5-n-propoxyindol-3-ylacetate as a stiff yellow syrup [NMR: 2-CH3 at 7.65 τ; pure by TLC (systems A and D)].

reactant | ethyl 1-(7-chloroquinazolin-4-yl)-5-hydroxy-2-methylindol-3-ylacetate | 1.0g | ClC1=CC=C2C(=NC=NC2=C1)N1C(=C(C2=CC(=CC=C12)O)CC(=O)OCC)C | C21H18ClN3O3
reactant | tetrachloroethylene | 100ml | ClC(=C(Cl)Cl)Cl | C2Cl4
reactant | dimethyl-formamide | 10ml | CN(C=O)C | C3H7NO
product | ethyl 1-(7chloroquinazolin-4-yl)-2-methyl-5-n-propoxyindol-3-ylacetate | ClC1=CC=C2C(=NC=NC2=C1)N1C(=C(C2=CC(=CC=C12)OCCC)CC(=O)OCC)C | C24H24ClN3O3
